US07495103B2
A suspension of 5-ethyl-6-nitro-1H-indole (1.9 g, 10 mmol) and Raney Ni (1 g) was stirred under H2 (1 atm) at room temperature for 2 h. The catalyst was filtered off and the filtrate was concentrated to dryness. The residue was purified by column chromatography on silica gel to give 5-ethyl-1H-indol-6-ylamine (B-23) (760 mg, 48%). 1H NMR (CDCl3) δ 7.90 (br s, 1H), 7.41 (s, 1H), 7.00 (s, 1H), 6.78 (s, 2H), 6.39 (s, 1H), 3.39 (br s, 2H), 2.63 (q, J=7.2 Hz, 2H), 1.29 (t, J=6.9 Hz, 3H); ESI-MS 161.1 m/z (MH+).

reactant | 5-ethyl-6-nitro-1H-indole | 10 mmol, 1.9 g | C(C)C=1C=C2C=CNC2=CC1[N+](=O)[O-] | C10H10N2O2
catalyst | Ni | 1 g | [Ni] | Ni
product | 5-ethyl-1H-indol-6-ylamine | 760 mg, 48% | C(C)C=1C=C2C=CNC2=CC1N | C10H12N2
